US05362886
A mixture of 8.18 g of 2-acetylthiophene, 6.66 g of dimethylamine hydrochloride, 2.9 g of paraformaldahyde and 0.31 g of concentrated hydrochloric acid in 20 ml of isopropanol was heated to reflux and stirred for 6 hours. The mixture was then cooled to 0° C. and stirred for one hour more. The slurry was then filtered, and the solid was washed with cold ethanol. The washed solid was dried for 16 hours at 50° C. to obtain 12.5 g of 2-thienyl 2-dimethylaminoethyl ketone hydrochloride, as a white solid. A 12.0 g portion of that intermediate product was stirred in 40 ml of ethanol at ambient temperature, and the pH of the solution was raised to 11-12 by slow addition of sodium hydroxide. A 1.03 g portion of sodium borohydride was added, and the mixture was stirred at ambient temperature for 4 hours. Then 7.5 ml of acetone was added, and the mixture was stirred for 20 minutes more. The mixture was then concentrated by evaporation to a white slurry, and 120 ml of methyl t-butyl ether was added. The mixture was acidified to pH 1-1.5 by addition of concentrated hydrochloric acid, and the solution was stirred for ten minutes. The pH was then made basic to pH 12 by slow addition of sodium hydroxide.

reactant | 2-acetylthiophene | 8.18 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | dimethylamine hydrochloride | 6.66 g | Cl.CNC
reactant | hydrochloric acid | 0.31 g | Cl | ClH
reactant | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 2-thienyl 2-dimethylaminoethyl ketone hydrochloride | 12.5 g | Cl.CN(CCC(=O)C=1SC=CC1)C | InChI=1S/C9H13NOS.ClH/c1-10(2)6-5-8(11)9-4-3-7-12-9;/h3-4,7H,5-6H2,1-2H3;1H
